### PR TITLE
[Merged by Bors] - feat(RingTheory/RootsOfUnity/PrimitiveRoots): add primitiveRootsPowEquivOfCoprime

### PR DESCRIPTION
**Pull request by metakunt**
Adds equivalence of r-th primitive roots by a coprime e.

### CODE REVIEW

**Comment by Citronhat** [comment]
Hi, and thanks for your contribution to `mathlib`! This is my first time reviewing a PR, so bear with me.

I'm not knowledgeable on primitive roots myself, so I've focused my review on the Lean style and proof structure. I have a couple of suggestions for the first two have statements that might make the proofs a bit more concise and idiomatic. These are just suggestions, of course, so please feel free to ask questions or discuss them!

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 1]
```diff
@@ -687,6 +689,105 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+    rw [IsCoprime]
+    rw [IsCoprime] at h
+    have ⟨a, b, hh⟩ :=h
+    have g := Int.gcd_eq_gcd_ab x y
+    have gg : ↑(x.gcd y) = 1 :=by exact Int.isCoprime_iff_gcd_eq_one.mp h
+    rw [gg] at g
+    use x
+    use x.gcdB y
+    nth_rw 2 [mul_comm]
+    exact g.symm
```
Comment (Citronhat) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```lean
  have coprmGcdA (x y : ℤ) (hc : IsCoprime x y) : IsCoprime (x.gcdA y) y := by
    use x, x.gcdB y
    rwa [mul_comm _ y, ← Int.gcd_eq_gcd_ab, Nat.cast_eq_one, ← Int.isCoprime_iff_gcd_eq_one]
```
The use tactic is smart enough to handle the definition of IsCoprime, and rwa can then solve the goal in one step.

- `use x, y`: The definition of `IsCoprime a b` is `∃ a b, a * x + b * y = 1`. The `use` tactic is a constructor tactic; it directly provides witnesses for these `∃` binders without needing you to unfold the definition with `rw [IsCoprime]`. You can also provide multiple witnesses at once (`use x, y`) which is shorthand for applying the tactic sequentially (`use x; use y`).

- `rwa [...]`: This tactic first performs the rewrites (`rw`) and then tries to close the resulting goal using an existing assumption (`assumption`), which is very effective here since the rewrites transform the goal into the hypothesis `hc`.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 2]
```diff
@@ -687,6 +689,105 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+      rw [jj]
+      refine Int.mul_nonneg_iff.mpr ?_
+      right
+      constructor
+      exact Int.le_of_lt hc
+      have quest : 1 ≤ - ( e.gcdA r ) := by exact Int.add_le_zero_iff_le_neg'.mp hc
+      refine Int.add_le_zero_iff_le_neg'.mpr ?_
+      rw [neg_mul_eq_mul_neg]
+      have nez : 1 ≤ (r:ℤ) := ( Int.toNat_le.mp NeZero.one_le )
+      exact one_le_mul_of_one_le_of_one_le nez quest
```
Comment (Citronhat) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```lean  
have de : 0 ≤ (r * Nat.gcdA e r + 1) * Nat.gcdA e r := by
    cases le_or_gt 0 (e.gcdA r) with
    | inl hc =>
      positivity
    | inr hc =>
      have hr : (0 : ℤ) < r := by exact_mod_cast r.pos_of_neZero
      apply Int.mul_nonneg_of_nonpos_of_nonpos _ (Int.le_of_lt hc)
      rw [Int.add_le_zero_iff_le_neg', Int.neg_mul_eq_mul_neg]
      exact one_le_mul_of_one_le_of_one_le hr (Int.neg_pos_of_neg h
```
- *First Case*: In the non-negative case (`hc`), `positivity` automatically solves the goal.

- *Second Case* : Here, our goal `(0 : ℤ) < r` involves an integer `(r : ℤ)`, but the fact `r.pos_of_neZero` gives us a proof of `0 < r`. The `exact_mod_cast` tactic is perfect for this situation. It proves a goal by using `exact` on a hypothesis, but it first intelligently casts the hypothesis to the required.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 1 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Yeah, I think I tried it but it failed for some reason? maybe I had the wrong syntax.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 2 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Thanks for the shortenings, I'll keep exact_mod_cast in mind for future use.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 3]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
   have : NeZero n := ⟨hn⟩
   exact nthRoots_one_eq_biUnion_primitiveRoots'
 
+/-- Equivalence of coprime powers of primitive roots. -/
+def equiv_primitiveRoots_of_coprimePow {e r : ℕ} [CommRing R] [IsDomain R] [NeZero r]
+  (h : e.Coprime r) : (primitiveRoots r R) ≃ (primitiveRoots r R) := by
+  have coprmGcdA (x y : ℤ) (hc : IsCoprime x y) : IsCoprime (x.gcdA y) y := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: This should be a lemma, I think

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 4]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
   have : NeZero n := ⟨hn⟩
   exact nthRoots_one_eq_biUnion_primitiveRoots'
 
+/-- Equivalence of coprime powers of primitive roots. -/
+def equiv_primitiveRoots_of_coprimePow {e r : ℕ} [CommRing R] [IsDomain R] [NeZero r]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: This should be completely in camelCase

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 5]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+  (h : e.Coprime r) : (primitiveRoots r R) ≃ (primitiveRoots r R) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
    (h : e.Coprime r) : (primitiveRoots r R) ≃ (primitiveRoots r R) := by
```

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 6]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+    cases le_or_gt 0 (e.gcdA r) with
+    | inl hc =>
+      positivity
+    | inr hc =>
+      have hr : (0 : ℤ) < r := by exact_mod_cast r.pos_of_neZero
+      apply Int.mul_nonneg_of_nonpos_of_nonpos _ (Int.le_of_lt hc)
+      rw [Int.add_le_zero_iff_le_neg', Int.neg_mul_eq_mul_neg]
+      exact one_le_mul_of_one_le_of_one_le hr (Int.neg_pos_of_neg hc)
+  have hea (a : R) (ha: a ∈ primitiveRoots r R):
+   a ^ (e * ((r * e.gcdA r + 1) * e.gcdA r).toNat) = a :=by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
  have hea (a : R) (ha: a ∈ primitiveRoots r R) :
      a ^ (e * ((r * e.gcdA r + 1) * e.gcdA r).toNat) = a := by
```

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 7]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+    rw [mem_primitiveRoots] at ha
+    have fff := IsPrimitiveRoot.val_toRootsOfUnity_coe ha
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Please come up with a better name for this `have`

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 8]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+    rw [← fff, ← Units.val_pow_eq_pow_val]
+    congr
+    rw [← zpow_natCast]
+    push_cast
+    have rweq: ( ↑e * ((↑r * e.gcdA r + 1) * e.gcdA r)) =
+     r * ( e * ( e.gcdA r ) ^ 2 ) + e * e.gcdA r := by ring
+    rw [Int.natCast_toNat_eq_self.mpr de, rweq, zpow_add, zpow_mul, IsPrimitiveRoot.zpow_eq_one,
+    one_zpow, one_mul]
+    have hgcd := eq_sub_of_add_eq (Nat.gcd_eq_gcd_ab e r).symm
+    rw[hgcd, zpow_sub, zpow_mul]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
    rw [hgcd, zpow_sub, zpow_mul]
```

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 9]
```diff
@@ -687,6 +689,83 @@ theorem nthRoots_one_eq_biUnion_primitiveRoots [DecidableEq R] {n : ℕ} :
...
+    · rw[← Nat.isCoprime_iff_coprime,Int.isCoprime_iff_gcd_eq_one, Int.gcd_natCast_natCast] at h
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
    · rw [← Nat.isCoprime_iff_coprime, Int.isCoprime_iff_gcd_eq_one, Int.gcd_natCast_natCast] at h
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! Please take a look at the formatting throughout.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 3 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Yeah, #32369 got merged.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 7 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: cleaned up

**Comment by metakunt** [comment]
@Ruben-VandeVelde I have completely cleaned up the proof and golfed it to the best of my abilities.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 10]
```diff
@@ -694,6 +696,59 @@ theorem card_primitiveRoots {ζ : R} {k : ℕ} (h : IsPrimitiveRoot ζ k) :
...
+    push_cast
+    have h1 : (↑e * ((r * e.gcdA r + 1) * e.gcdA r)) = r * (e * (e.gcdA r) ^ 2) + e * e.gcdA r := by
+      ring
+    rw [Int.toNat_of_nonneg pos_exp, h1, zpow_add, zpow_mul, IsPrimitiveRoot.zpow_eq_one, one_zpow,
+      one_mul, eq_sub_of_add_eq (Nat.gcd_eq_gcd_ab e r).symm, zpow_sub, zpow_mul]
+    swap
+    · exact IsPrimitiveRoot.coe_units_iff.mp ha
+    rw [← Nat.isCoprime_iff_coprime, Int.isCoprime_iff_gcd_eq_one, Int.gcd_natCast_natCast] at h
+    have last: ((a ^ r) ^ e.gcdB r)⁻¹ = 1 := by
+      grind [IsPrimitiveRoot.coe_units_iff, IsPrimitiveRoot.pow_eq_one, one_zpow, inv_one]
```
Comment (metakunt) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: I think some of those lemmas can be tagged by grind. Like one_zpow

**Review by erdOne — COMMENTED** [review]
I would argue we want this instead:
```lean
lemma pow_eq_pow_of_modEq {M : Type*} [Monoid M] {x : M} {r a b : ℕ}
    (h : a ≡ b [MOD r]) (hx : x ^ r = 1) : x ^ a = x ^ b := by
  obtain hle | hle := le_total a b
  all_goals
    obtain ⟨c, rfl⟩ := le_iff_exists_add.mp hle
    obtain ⟨c, rfl⟩ : r ∣ c := by simpa using h
    simp [pow_add, pow_mul, hx]

/-- Equivalence of coprime powers of primitive roots. -/
def equivPrimitiveRootsOfCoprimePow {a b r : ℕ} (h : a * b ≡ 1 [MOD r]) :
    primitiveRoots r R ≃ primitiveRoots r R where
  toFun x := ⟨x.1 ^ a,
    have hr : 0 < r := by by_contra! h; cases x; simp_all
    have hr' : a.Coprime r := by
      simpa [(a.gcd_dvd_left r).trans] using h.dvd_iff (Nat.gcd_dvd_right a r)
    (mem_primitiveRoots hr).mpr <| ((mem_primitiveRoots hr).mp x.2).pow_of_coprime _ hr'⟩
  invFun x := ⟨x.1 ^ b,
    have hr : 0 < r := by by_contra! h; cases x; simp_all
    have hr' : b.Coprime r := by
      simpa [(b.gcd_dvd_left r).trans] using h.dvd_iff (Nat.gcd_dvd_right b r)
    (mem_primitiveRoots hr).mpr <| ((mem_primitiveRoots hr).mp x.2).pow_of_coprime _ hr'⟩
  left_inv x := by ext; simp [← pow_mul,
    pow_eq_pow_of_modEq h (isPrimitiveRoot_of_mem_primitiveRoots x.2).pow_eq_one]
  right_inv x := by ext; simp [← pow_mul, mul_comm b,
    pow_eq_pow_of_modEq h (isPrimitiveRoot_of_mem_primitiveRoots x.2).pow_eq_one]
```
And then you get your statement by invoking this.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 11]
```diff
@@ -694,6 +696,39 @@ theorem card_primitiveRoots {ζ : R} {k : ℕ} (h : IsPrimitiveRoot ζ k) :
     rcases hξ with ⟨i, hin, hi, H⟩
     exact ⟨i, ⟨hin, hi.symm⟩, H⟩
 
+lemma pow_eq_pow_of_modEq {M : Type*} [Monoid M] {x : M} {n a b : ℕ}
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: This should be moved somewhere else.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 12]
```diff
@@ -694,6 +696,39 @@ theorem card_primitiveRoots {ζ : R} {k : ℕ} (h : IsPrimitiveRoot ζ k) :
...
+    (h : a ≡ b [MOD n]) (hx : x ^ n = 1) : x ^ a = x ^ b := by
+  obtain hle | hle := le_total a b
+  all_goals
+    obtain ⟨c, rfl⟩ := le_iff_exists_add.mp hle
+    obtain ⟨c, rfl⟩ : n ∣ c := by simpa using h
+    simp [pow_add, pow_mul, hx]
+
+/-- Equivalence of coprime powers of primitive roots. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Could you expand the docstring a bit? Something like "If `a * b ≡ 1 (mod n)`, then `x ↦ x ^ a` and `x ↦ x ^ b` restricts to a bijection on the `n`-th primitive roots".

And this definition should get a better name. In particular it should not mention `Coprime` because there are no `Nat.Coprime` inputs to it.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 13]
```diff
@@ -694,6 +696,39 @@ theorem card_primitiveRoots {ζ : R} {k : ℕ} (h : IsPrimitiveRoot ζ k) :
...
+def equivPrimitiveRootsOfCoprimePow' {a b n : ℕ} (h : a * b ≡ 1 [MOD n]) :
```
Comment (erdOne) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]:
```suggestion
@[simps]
def equivPrimitiveRootsOfCoprimePow' {a b n : ℕ} (h : a * b ≡ 1 [MOD n]) :
```

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 11 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: I tried to find a good place but couldn't really. Not many lemmas mention ModEq. Do you have a suggestion?

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 12 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Naming that one is hard. I suggest equivPrimitiveRootsModEqOne. Do you have a better name for it?

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 11 above)
Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Would this be a good place? https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/ModEq.html#Nat.ModEq

Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: Ok the linter complains that I can't do that.

Comment (metakunt) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: I also can't put it in https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Basic.html for some reason.

Comment (erdOne) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: How about near `IsOfFinOrder.pow_eq_pow_iff_modEq`? Although it is bit late in the import hierarchy but should be fine?

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean (hunk 12 above)
Comment (erdOne) [reply Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean]: I would call this `primitiveRootsPowEquiv`. personally.

File: Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean [hunk 14]
```diff
@@ -692,6 +694,34 @@ theorem card_primitiveRoots {ζ : R} {k : ℕ} (h : IsPrimitiveRoot ζ k) :
...
+  right_inv x := by ext; simp [← pow_mul, mul_comm b,
+    pow_eq_pow_of_modEq h (isPrimitiveRoot_of_mem_primitiveRoots x.2).pow_eq_one]
+
+/-- Equivalence of coprime powers of primitive roots. Every `n`-th primitive root is taken to the
+    `a`-th power given that `n` and `a` are coprime. -/
+def primitiveRootsPowEquivOfCoprime {a n : ℕ} (h : a.Coprime n) [NeZero n] :
+    primitiveRoots n R ≃ primitiveRoots n R :=
+  have h2 := Nat.exists_mul_mod_eq_of_coprime 1 h NeZero.out
+  have h3 : a * h2.choose ≡ 1 [MOD n] := by grind [Nat.ModEq]
+  primitiveRootsPowEquiv h3
```
Comment (robin-carlier) [inline Mathlib/RingTheory/RootsOfUnity/PrimitiveRoots.lean:724]:
```suggestion
@[simps! apply_coe]
def primitiveRootsPowEquivOfCoprime {a n : ℕ} (h : a.Coprime n) [NeZero n] :
    primitiveRoots n R ≃ primitiveRoots n R :=
  haveI h2 := Nat.exists_mul_mod_eq_of_coprime 1 h NeZero.out
  haveI h3 : a * h2.choose ≡ 1 [MOD n] := by grind [Nat.ModEq]
  primitiveRootsPowEquiv h3
```
I think it’s better practice to inline the "haves" when in term mode with a non-prop goal like this.

also, added the `@[simps! apply_coe]` adds the lemma saying that you’re indeed taking the root to its `a`-th power.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+
